US08304419B2
To a solution of methyl 3-chloro-4-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylate (0.048 g, 0.195 mmol) in THF (3 mL) and water (1 mL) was added lithium hydroxide (0.047 g, 1.946 mmol). The reaction mixture was stirred overnight at 35° C. The solvent was evaporated and the resulting solid placed under high vacuum. To the intermediate mixture was added DMF (1 mL), HATU (0.089 g, 0.234 mmol), DIPEA (0.051 ml, 0.292 mmol) and 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.061 g, 0.195 mmol). The solution was stirred for 4 h at RT. Purification was accomplished by HPLC. The desired fractions were neutralized with saturated sodium bicarbonate, extracted with EtOAc (3×5 mL), the organic layers combined, dried over sodium sulfate, filtered and evaporated to afford 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N4-(2-hydroxyethyl)-1H-pyrrole-2,4-dicarboxamide (0.039 g, 38% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ ppm 12.25 (br. s., 1H) 8.15 (t, 1H) 7.83 (d, 1H) 7.78 (t, 1H) 7.51-7.56 (m, 2H) 7.48 (dt, 2H) 7.37 (t, 1H) 4.57 (d, 2H) 3.46 (t, 2H) 3.25 (q, 2H). MS: m/z 525.0 (M+1).

reactant | methyl 3-chloro-4-{[(2-hydroxyethyl)amino]carbonyl}-1H-pyrrole-2-carboxylate | 0.195 mmol, 0.048 g | ClC1=C(NC=C1C(=O)NCCO)C(=O)OC | C9H11ClN2O4
reactant | lithium hydroxide | 1.946 mmol, 0.047 g | [OH-].[Li+]
reactant | HATU | 0.234 mmol, 0.089 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.292 mmol, 0.051 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.195 mmol, 0.061 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N4-(2-hydroxyethyl)-1H-pyrrole-2,4-dicarboxamide | 0.039 g, 38% yield | ClC1=C(NC=C1C(=O)NCCO)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C22H16Cl3FN4O4
